US07598257B2
A solution of 4-bromo-2-(diethoxymethyl)thiophene (500 mg, 0.002 mol) in ether (5 mL, 0.05 mol) was cooled at −78° C. To this solution, 2.5 M n-butyllithium in hexane (0.83 mL) was added dropwise. The reaction was stirred at −78° C. for 1 hour. To the reaction was added DMF (0.4 g, 0.006 mol) at −78° C. and the mixture was stirred for 30 minutes. The reaction was quenched with water and extracted with ethyl acetate. The combined organic layers were washed with saturated sodium chloride, dried over magnesium sulfate, filtered and concentrated. The crude residue was purified by flash column chromatography to yield the 5-(diethoxymethyl)thiophene-3-carbaldehyde as an oil (170 mg, 42.0%). By 1H NMR two different regioisomers of aldehydes were formed and were not separated; (note: NMR shifts are for the major isomer only) 1H NMR (400 MHz, CDCl3): δ 9.85 (s, 1H), 8.05, 7.7 (s, 1H), 7.45, 7.15 (s, 1H), 5.7 (s, 1H), 3.65 (m, 2H), 1.25 (m, 2H).

reactant | 4-bromo-2-(diethoxymethyl)thiophene | 0.002 mol, 500 mg | BrC=1C=C(SC1)C(OCC)OCC | C9H13BrO2S
reactant | ether | 0.05 mol, 5 mL | CCOCC | C4H10O
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | DMF | 0.006 mol, 0.4 g | CN(C)C=O | C3H7NO
solvent | hexane | 0.83 mL | CCCCCC | C6H14
product | 5-(diethoxymethyl)thiophene-3-carbaldehyde | 170 mg, 42.0% | C(C)OC(C1=CC(=CS1)C=O)OCC | C10H14O3S
